*
.SUBCKT BS250P 3 4 5
*                D G S
M1 3 2 5 5 MBS250
RG 4 2 160
RL 3 5 1.2E8
C1 2 5 47E-12
C2 3 2 10E-12 
D1 3 5 DBS250
*
.MODEL MBS250 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
+CBD=105E-12 PB=1 LAMBDA=1.2E-2
.MODEL DBS250 D IS=2E-13 RS=0.309
.ENDS BS250P
*
*$
*